US04510309
D. 2-Dimethylaminomethyl-4-hydroxvmethylthiazole
To a cooled suspension of lithium aluminum hydride (8.4 g; 0.22 mole) in 80 ml of dry tetrahydrofuran was added a solution of 2-(N-carbethoxy-N-methylamino)methyl-4-carbethoxythiazole E(20.0 g ; 0.07 mole) [prepared in Step C] in 160 ml of dry tetrahydrofuran over a 1 hour period. The reaction mixture was heated at reflux temperature for 8 hours, then cooled and decomposed with Na2SO4 and 40% aqueous potassium hydroxide. The mixture was filtered, dried and evaporated under reduced pressure to give 4.2 g of the title compound as an oil; TLC (aluminum oxide/CH3CN) gave RF=0.45. The NMR spectrum (60 MHz) in CDCl3 gave the following resonances δ: 7.17 (s, 1H); 4.73 (d, 2H); 3.43 (s, 2H); 3.35 (s, 6H).

reactant | lithium aluminum hydride | 0.22 mole, 8.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(N-carbethoxy-N-methylamino)methyl-4-carbethoxythiazole | C(=O)(OCC)N(C)CC=1SC=C(N1)C(=O)OCC | C11H16N2O4S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2-Dimethylaminomethyl-4-hydroxvmethylthiazole | 4.2 g | CN(C)CC=1SC=C(N1)CO | C7H12N2OS
